US06586617B1
Synthesis of 4′-Chloro-N-methyl-2′-nitroso-p-toluenesulfonanilide (Compound No. 284)
To a solution of 2′-amino-4′-chloro-N-methyl-p-toluenesulfonanilide (1.50 g (4.83 mmol)) in chloroform (20.0 ml), 70% mCPBA (m-chloro-perbenzoic acid) (2.38 g) was added with stirring at room temperature. After being stirred for 3 days at room temperature, saturated aqueous solution of sodium bicarbonate was added to the reaction mixture and the resulting mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:6) as eluent to give 1.15 g (73%) of the title compound as blue-green crystals.

reactant | 2′-amino-4′-chloro-N-methyl-p-toluenesulfonanilide | 4.83 mmol, 1.50 g | NC1=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=CC(=C1)Cl | C14H15ClN2O2S
reactant | mCPBA | 2.38 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 20.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 4′-Chloro-N-methyl-2′-nitroso-p-toluenesulfonanilide | 1.15 g, 73% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)N=O | C14H13ClN2O3S
